US07544697B2
Ethyl 5-ethyl-1-butyl-1H-pyrazole-3-carboxylate (13.27 g, 59.2 mmol) in concentrated ammonium hydroxide (50 mL) was heated at 125° C. for 14 hours in a pressure vessel. After the vessel was allowed to cool to ambient temperature, methanol (40 mL) was added and the vessel was heated at 125° C. for 1 day. After cooling to ambient temperature, the vessel was cooled in an ice bath and the product began to crystallize from the reaction mixture. Two crops of crystals were isolated to provide 5.50 g of 5-ethyl-1-butyl-1H-pyrazole-3-carboxamide as off-white crystals, mp 60-61° C. MS (APCI) m/z 196.1 (M+H)+; Anal. calcd for C10H17N3O: C, 61.51; H, 8.78; N, 21.52. Found: C, 61.32; H, 9.04; N, 21.71.

reactant | Ethyl 5-ethyl-1-butyl-1H-pyrazole-3-carboxylate | 59.2 mmol, 13.27 g | C(C)C1=CC(=NN1CCCC)C(=O)OCC | C12H20N2O2
reactant | methanol | 40 mL | CO | CH4O
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
product | 5-ethyl-1-butyl-1H-pyrazole-3-carboxamide | 5.50 g | C(C)C1=CC(=NN1CCCC)C(=O)N | C10H17N3O
